US08426414B2
((1S,2S)-1-Formyl-2-methyl-butyl)-carbamic acid tert-butyl ester (1.62 g, 7.5 mmol), and 6-bromo-naphthalen-2-ylamine (1.11 g, 5.0 mmol) were combined in DCE (10 mL). After stirring 5 min, NaBH(OAc)3 (2.33 g, 11 mmol) was added. The whole mixture was then stirred at r.t. for 18 h. The reaction mixture was transferred to a separatory funnel containing water (50 mL). The aqueous layer was extracted with DCM (3×50 mL). The combined organic layers were washed with brine (50 mL), dried over MgSO4, filtered and concentrated. The residue was purified via column chromatography on silica gel (10% ethyl acetate in hexanes) to afford {(1S,2S)-1-[(6-bromo-naphthalen-2-ylamino)-methyl]-2-methyl-butyl}-carbamic acid tert-butyl ester (1.78 g, 85% yield) as an off-white solid. LC/MS (ESI) m/e 423.2 [(M+H)+, calcd for C21H29BrN2O2 421.4].

reactant | ((1S,2S)-1-Formyl-2-methyl-butyl)-carbamic acid tert-butyl ester | 7.5 mmol, 1.62 g | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)C=O)=O | C11H21NO3
reactant | 6-bromo-naphthalen-2-ylamine | 5.0 mmol, 1.11 g | BrC=1C=C2C=CC(=CC2=CC1)N | C10H8BrN
reactant | NaBH(OAc)3 | 11 mmol, 2.33 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | water | 50 mL | O | H2O
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | {(1S,2S)-1-[(6-bromo-naphthalen-2-ylamino)-methyl]-2-methyl-butyl}-carbamic acid tert-butyl ester | 1.78 g, 85% yield | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CNC1=CC2=CC=C(C=C2C=C1)Br)=O | C21H29BrN2O2
